US06642224B1
3-Hydroxy-2-nitrobenzoic acid (10.5 g) was dissolved in 60 ml of N,N-dimethylformamide, then 15 ml of benzyl bromide and 19.0 g of potassium carbonate were added at 0° C. and the mixture was stirred for one night at room temperature. The reaction solution was filtered through Celite and concentrated in vacuo. Water was added to the resulting residue and the mixture was extracted with ether, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo to give 20.7 g of benzyl 3-benzyloxy-2-nitrobenzoate.

reactant | 3-Hydroxy-2-nitrobenzoic acid | 10.5 g | OC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C7H5NO5
reactant | benzyl bromide | 15 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 19.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | benzyl 3-benzyloxy-2-nitrobenzoate | 20.7 g | C(C1=CC=CC=C1)OC=1C(=C(C(=O)OCC2=CC=CC=C2)C=CC1)[N+](=O)[O-] | C21H17NO5
